US04659831
66 parts of 1-chloroanthraquinone, 60.5 parts of 1-aminoanthraquinone, 26.4 parts of sodium carbonate and 0.75 part of copper(I) chloride are suspended in 550 parts of nitrobenzene. With stirring, the mixture is heated to 190° C. and then a further 0.75 part of copper(I) chloride is added. The reaction mixture is heated to 206° C. and stirred for 3 hours at this temperature while distilling off the water of reaction. The batch is then heated to 214° C. and the pressure rises to about 1 bar. Stirring is continued for another 2 hours under these conditions. The reaction mixture is then cooled slightly and the nitrobenzene is removed by distillation. After drying there are obtained about 115 parts of anthrimide, which is suitable for further processing to give vat dyes.

reactant | 1-chloroanthraquinone | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
reactant | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper(I) chloride | [Cu]Cl
product | anthrimide | C1=CC=C2C(=C1)C(=O)C3=C(C2=O)C(=CC=C3)NC4=CC=CC5=C4C(=O)C6=CC=CC=C6C5=O | C28H15NO4
